US05776963
6,7-Dimethoxy-2-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperidinyl ]-2-hydroxy-1-propyl]-1,2,3,4-tetrahydroisoquinoline
A stirred mixture of 1-(2,3-epoxypropyl)-4(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (3.2 g, 11.6 mmol), K2CO3 (2 gm, 1.25 eq) and 6,7-dimethoxy-1,2,3,4 -tetrahydroisoquinoline hydrochloride (3.3 g, 1.25 eq) in isopropyl alcohol (200 ml) was heated at reflux for 6 hours. The mixture was cooled and filtered. The solvent was removed to about 50 ml and the solution was allowed to stand overnight. Crystals (0.6 g) formed and were collected. The mother liquor was concentrated to a white solid. Recrystallization twice from ethanol yielded the product (1.95 g, m.p. 153°-154° C.

reactant | 1-(2,3-epoxypropyl)-4(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 11.6 mmol, 3.2 g | O1C(CN2CCC(CC2)C2=NOC3=C2C=CC(=C3)F)C1 | C15H17FN2O2
reactant | K2CO3 | 2 gm, 1.25 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 6,7-dimethoxy-1,2,3,4 -tetrahydroisoquinoline hydrochloride | 3.3 g, 1.25 eq | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | 6,7-Dimethoxy-2-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperidinyl ]-2-hydroxy-1-propyl]-1,2,3,4-tetrahydroisoquinoline | 0.6 g | COC=1C=C2CCN(CC2=CC1OC)CC(CC1(CCNCC1)C1=NOC2=C1C=CC(=C2)F)O | C26H32FN3O4
